US04960779
Ethyl 2-[2-(7-chloro-1,8-naphthyridin-2-yl)-4-methyl-3-oxopentanoate may be prepared by working in a manner similar to that described in Example 23, but starting with ethyl 4-methyl-3-oxopentanoate (4.7 g), an oily suspension (50% by weight; 1.2 g) of sodium hydride and 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (6.6 g). After recrystallization in diisopropyl ether, ethyl 2-[2-(7-chloro-1, 8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl]-4-methyl-3-oxopentanoate (7 g), m.p. 146° C., is thereby obtained.

reactant | ethyl 4-methyl-3-oxopentanoate | 4.7 g | CC(C(CC(=O)OCC)=O)C | C8H14O3
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 6.6 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
product | ethyl 2-[2-(7-chloro-1, 8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl]-4-methyl-3-oxopentanoate | 7 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)C(C(=O)OCC)C(C(C)C)=O | C24H22ClN3O4
